US07598285B2
4-Acetylbenzoic acid (2.45 g, 14.9 mmol), beta-alanine t-butyl ester hydrochloride (4.0 g, 22 mmol), DIEA (3.9 ml, 22 mmol) and DMAP (100 mg) were dissolved in DCM (100 ml). EDC hydrochloride (3.5 g, 18 mmol) was added in portions. Additional EDC (0.7 g) was added one hour later to complete the reaction. After a total of 3 hours, the reaction was partitioned between ethyl acetate and 0.5 N HCl. The organic layer was washed with 0.5 N HCl 3×, 5% K2CO3 2×, brine 2×. Evaporation of solvent, and chromatography over SiO2 (10-20% ethyl acetate in DCM) afforded tert-butyl N-(4-acetylbenzoyl)-β-alaninate as a while solid. NMR (500 MHz, CD3OD) δ: 1.44 (s, 9H); 2.57 (t, J=7.0 Hz, 2H); 2.63 (s, 3H); 3.61 (t, J=7.0 Hz, 2H); 7.89 (d, J=8.5 Hz, 2H); 8.05 (d, J=8.5 Hz, 2H).

reactant | 4-Acetylbenzoic acid | 14.9 mmol, 2.45 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | beta-alanine t-butyl ester hydrochloride | 22 mmol, 4.0 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | DIEA | 22 mmol, 3.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC hydrochloride | 18 mmol, 3.5 g | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | EDC | 0.7 g
product | tert-butyl N-(4-acetylbenzoyl)-β-alaninate | C(C)(=O)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C16H21NO4
